US08461158B2
A solution of 0.30 g (5.4 mmol) of tert-butyl 4-{[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]amino}-1-piperidinecarboxylate in 10 mL of DMF was treated sequentially with excess NaH and iodomethane at room temperature for 2 hrs. Dilution with water and workup in CH2Cl2, followed by chromatography on silica eluting with CH2Cl2/EtOAc (4:1) gave 0.286 g (93% yield) of tert-butyl 4-[[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl](methyl)amino]-1-piperidinecarboxylate: mp (MeOH/CH2Cl2) 200-202° C.; 1H NMR (CDCl3) (rotamer mixture; ratio ca. 3:2) δ 7.98 and 7.91 (2d, J=8.4 Hz, 1H), 7.57 and 7.47 (2t, JHF=53.5 Hz, 1H), 7.34 (t, J=8.2 Hz, 1H), 6.81 (d, J=7.9 Hz, 1H), 4.82 and 4.70 (2m, 1H), 4.29 (m, 2H), 4.05 (s, 3H), 3.88 (m, 4H), 3.79 (m, 4H), 3.10 and 3.05 (2s, 3H), 2.84 (m, 2H), 1.73 (m, 4H), 1.49 (s, 9H); Anal. Calcd. for C27H36F2N8O4: C, 56.4; H, 6.3; N, 19.5. Found: C, 56.6; H, 6.4; N, 19.6%.

reactant | tert-butyl 4-{[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]amino}-1-piperidinecarboxylate | 5.4 mmol, 0.30 g | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)NC1CCN(CC1)C(=O)OC(C)(C)C)C=CC=C2OC)F | C26H34F2N8O4
reactant | NaH | [H-].[Na+]
reactant | iodomethane | IC | CH3I
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 EtOAc | C(Cl)Cl.CCOC(=O)C
product | tert-butyl 4-[[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl](methyl)amino]-1-piperidinecarboxylate | 0.286 g, 93% yield | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N(C1CCN(CC1)C(=O)OC(C)(C)C)C)C=CC=C2OC)F | C27H36F2N8O4
